US07026349B2
2-Bromo-4.5-dimethoxybenzenesulfonyl chloride
To a cooled (0° C.) solution of 4-bromoveratrole (15 mL, 100 mmol) in dichloromethane (100 mL) was added dropwise chlorosufonic acid (26 mL, 400 mmol). The reaction was allowed to slowly warm to ambient temperature and maintained for 3 hours, at which time it was concentrated and diluted with ether (300 mL). The resultant solution was then washed with ice cold water (2×250 mL) and brine (100 mL), dried over magnesium sulfate, and concentrated to furnish a grayish powder (25 g, 78%).

reactant | 4-bromoveratrole | 100 mmol, 15 mL | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | chlorosufonic acid | 400 mmol, 26 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Bromo-4.5-dimethoxybenzenesulfonyl chloride | 25 g, 78% | BrC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)Cl | C8H8BrClO4S
